US05030654
Sodium carbonate (4.03 g, 38 mmole) was added in small portions to a stirred solution of cis-4-aminocyclohexane carboxylic acid (10.0 g, 69 mmole) in a mixture of dioxane (80 ml) and water (40 ml). After 15 minutes a solution of dibenzyl dicarbonate (19.47 g, 68 mmole) in dioxane (40 ml) was added dropwise followed by water (40 ml). The mixture was stirred for 18 hours at room temperature, the solvent evaporated under vacuum and the residue partitioned between diethyl ether and water. The organic phase was washed with dilute hydrochloric acid and water, dried over sodium sulphate and evaporated under vacuum to give cis-4-benzyloxycarbonylaminocyclohexane carboxylic acid as an oil (14.5 g, 75%). Found: C,64.88; H,6.98; N,5.13. C15H19NO4 requires C,64.97; H,6.91; N,5.05%.

reactant | Sodium carbonate | 38 mmole, 4.03 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | cis-4-aminocyclohexane carboxylic acid | 69 mmole, 10.0 g | N[C@H]1CC[C@H](CC1)C(=O)O | C7H13NO2
reactant | dibenzyl dicarbonate | 68 mmole, 19.47 g | C(=O)(OCC1=CC=CC=C1)OC(=O)OCC1=CC=CC=C1 | C16H14O5
solvent | dioxane | 80 ml | O1CCOCC1 | C4H8O2
solvent | water | 40 ml | O | H2O
solvent | dioxane | 40 ml | O1CCOCC1 | C4H8O2
solvent | water | 40 ml | O | H2O
product | cis-4-benzyloxycarbonylaminocyclohexane carboxylic acid | 14.5 g, 75% | C(C1=CC=CC=C1)OC(=O)N[C@H]1CC[C@H](CC1)C(=O)O | C15H19NO4
